US09193689B2
N,N-Diethyl-2,3-dimethyl-benzamide (200 mg, 0.97 mmol) was dissolved in anhydrous THF (4 mL) under a N2 and cooled to −78° C. n-BuLi (2.5M in n-hexanes, 0.82 mL, 2.04 mmol) was added dropwise to yield a deep red coloured solution and the reaction mixture was stirred at −78° C. for 30 minutes. 4-{[(4-Cyano-benzoyl)-methyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (348 mg, 0.97 mmol) was dissolved in anhydrous THF (4 mL) and added dropwise, and the reaction stirred at −78° C. for 2 h. The reaction mixture was quenched with ice/water, allowed to warm to RT and extracted with CH2Cl2 and EtOAc. The combined organic phase was passed through a phase separation cartridge and concentrated in vacuo. The crude compound was triturated with isohexane/diethyl ether (80:20), the solid filtered and dried in vacuo to give 4-({methyl-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoyl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester as a light beige solid (171 mg, 36%).

reactant | N,N-Diethyl-2,3-dimethyl-benzamide | 0.97 mmol, 200 mg | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | n-BuLi | 2.04 mmol, 2.5M, 0.82 mL | [Li]CCCC
reactant | 4-{[(4-Cyano-benzoyl)-methyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.97 mmol, 348 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C)C(C1=CC=C(C=C1)C#N)=O | C20H27N3O3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-({methyl-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoyl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 171 mg, 36% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)C | C29H35N3O4
